*** SPICE deck for cell Voltage_Divider_1{sch} from library bai_9
*** Created on Thu Dec 25, 2025 14:18:05
*** Last revised on Sun Feb 22, 2026 20:29:26
*** Written on Sun Feb 22, 2026 20:29:30 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd

*** TOP LEVEL CELL: Voltage_Divider_1{sch}
RR0 gnd VOUT 300
RR1 VOUT VIN 1k

* Spice Code nodes in cell cell 'Voltage_Divider_1{sch}'
.include "E:\Analog_IC_Design\ThucHanh\K22_TKVMTT\Electric_2025\libs\models\C5_models.txt"
VVIN VIN GND SIN(2.5 2.5 1K)
.op
;.trans 0 2ms 1ns 
.END
