*** SPICE deck for cell currentMirror_noiseTT{sch} from library bai_5
*** Created on Fri Nov 14, 2025 16:06:56
*** Last revised on Fri Nov 14, 2025 20:49:18
*** Written on Fri Nov 14, 2025 20:51:34 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd

*** TOP LEVEL CELL: currentMirror_noiseTT{sch}
MM1 net@2 net@2 gnd gnd nch L=0.2U W=0.4U
MM2 out net@2 gnd gnd nch L=0.2U W=2U
RR1 net@2 net@1 10k
RR2 out net@1 3k1
VV1 net@1 gnd DC=1.8V AC=1V SIN (1.8V 1V 800MEG 1ns)

* Spice Code nodes in cell cell 'currentMirror_noiseTT{sch}'
.lib 'E:\Analog_IC_Design\ThucHanh\K22_TKVMTT\Electric_2025\libs\models\tsmc180nm\mm018.l' TT 
.noise v(out)  VV1 dec 1000 100Meg 100G
.probe v(onoise)
.END
