*** SPICE deck for cell currentMirror_sweepR{sch} from library bai_5
*** Created on Fri Nov 14, 2025 15:57:35
*** Last revised on Fri Nov 14, 2025 15:58:07
*** Written on Fri Nov 14, 2025 15:58:13 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd

*** TOP LEVEL CELL: currentMirror_sweepR{sch}
MM1 M1_d net@8 gnd gnd nch L=0.2U W=0.4U
MM2 net@15 net@8 gnd gnd nch L=0.2U W=2U
RR1 net@8 net@0 10k
RR2 net@15 net@0 3k1
VV1 net@0 gnd DC 1.8

* Spice Code nodes in cell cell 'currentMirror_sweepR{sch}'
.lib 'E:\Analog_IC_Design\ThucHanh\K22_TKVMTT\Electric_2025\libs\models\tsmc180nm\mm018.l' TT 
.op
.step param R1 1k 50k 100
.probe i()
.END
