*** SPICE deck for cell current_mirror{sch} from library bai_7
*** Created on Wed Feb 04, 2026 15:24:54
*** Last revised on Wed Feb 04, 2026 21:22:30
*** Written on Wed Feb 04, 2026 21:22:47 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd

*** TOP LEVEL CELL: current_mirror{sch}
MM1 Iref Iref gnd gnd NMOS L=0.6U W=3U
MM2 Iout Iref gnd gnd NMOS L=0.6U W=15U

* Spice Code nodes in cell cell 'current_mirror{sch}'
.include "E:\Analog_IC_Design\ThucHanh\K22_TKVMTT\Electric_2025\libs\models\C5_models.txt"
Vsupply V1 0 DC 5V
RR1 V1 Iref 35k
RR2 V1 Iout 9k 
.noise v(Iout) V1 dec 1000 10G 100G
V1 Iref GND 1V AC 1V SINE(1V 1V 800Meg 1n)
.probe V(onoise)
.END